US08957089B2
65.3 2-({1-[1-(4-Fluorophenyl)cyclobutyl]-3,4-dihydroisoquinolin-7-yl}oxy)ethanamine
tert-Butyl[2-({1-[1-(4-fluorophenyl)cyclobutyl]-3,4-dihydroisoquinolin-7-yl}oxy)ethyl]carbamate (2.5 g, 5.7 mmol) was dissolved in dichloromethane (30 mL) and 5N hydrochloric acid in isopropanol (20 mL) was added. After stirring over night at room temperature the solvent was evaporated in vacuo. Water (30 mL) was added and the aqueous phase was neutralized with saturated aqueous NaHCO3 and extracted with dichloromethane. The combined organic layers were washed with brine (20 mL), dried (MgSO4) and concentrated in vacuo. The crude product (1.76 g) was used without purification for the next step.

reactant | tert-Butyl[2-({1-[1-(4-fluorophenyl)cyclobutyl]-3,4-dihydroisoquinolin-7-yl}oxy)ethyl]carbamate | 5.7 mmol, 2.5 g | C(C)(C)(C)OC(NCCOC1=CC=C2CCN=C(C2=C1)C1(CCC1)C1=CC=C(C=C1)F)=O | C26H31FN2O3
reactant | hydrochloric acid | 5N | Cl | ClH
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | isopropanol | 20 mL | C(C)(C)O | C3H8O
product | 2-({1-[1-(4-Fluorophenyl)cyclobutyl]-3,4-dihydroisoquinolin-7-yl}oxy)ethanamine | FC1=CC=C(C=C1)C1(CCC1)C1=NCCC2=CC=C(C=C12)OCCN | C21H23FN2O
